US07138401B2
Synthesis of 6-Chloro-9-(5-ethoxy-4-hydroxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine
A mixture of 6-chloro-9-(5-hydroxy-4-hydroxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine (see previous example), EtI (excess), K2CO3 (excess) and DMF was heated to 50° C. for 15 min. Work-up (EtOAc), drying (MgSO4), evaporation, and purification by preparative TLC gave the title compound. HPLC Rt: 3.720 min. 1H-NMR (CDCl3) δ 8.27 (s, 1H), 7.90 (s, 1H), 5.40 (s, 2H), 5.11 (s, 2H), 4.85 (d, 2H), 4.50 (t, 1H), 3.95 (q, 2H), 2.51 (s, 3H), 1.45 (t, 3H).

reactant | 6-chloro-9-(5-hydroxy-4-hydroxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine | ClC1=C2N=CN(C2=NC(=N1)N)CC=1C=NC(=C(C1CO)O)C | C13H13ClN6O2
reactant | EtI | C(C)I | C2H5I
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Chloro-9-(5-ethoxy-4-hydroxymethyl-6-methyl-pyridin-3-ylmethyl)-9H-purin-2-ylamine | ClC1=C2N=CN(C2=NC(=N1)N)CC=1C=NC(=C(C1CO)OCC)C | C15H17ClN6O2
